* multi instance test 

.param VCC = 1.8

Vtb.inv0.A tb.inv0.A_port 0 0 external
atb.inv0.A tb.inv0.A_port tb.inv0.A ie_input
Binv0 tb.inv0.Y 0 V = VCC-v(tb.inv0.A)

Vtb.inv1.A tb.inv1.A_port 0 0 external
atb.inv1.A tb.inv1.A_port tb.inv1.A ie_input
Binv1 tb.inv1.Y 0 V = VCC-v(tb.inv1.A)

* 10ns ries and fall time
.model ie_input slew(rise_slope=0.18e9 fall_slope=0.18e9)

.tran 1ns 1m

.end
